US07576094B2
To a solution of ethyl 2-(1-(4-methoxy-3,5-dimethylphenylamino)cyclobutyl)acetate (1 g) in EtOH was added an aqueous solution of NaOH (2.5 g). The mixture was stirred at room temperature overnight, concentrated and water was added to the residue. After addition of HCl to adjust the pH 2-3, the solution was then washed with ethyl acetate (3×20 mL). The organic layer was dried over Na2SO4 and the solvent was removed by evaporation to give 2-(1-(4-methoxy-3,5-dimethylphenylamino)-cyclobutyl)acetic acid (650 mg) as a white solid. MS: m/z 264 (100, M+H)+

reactant | ethyl 2-(1-(4-methoxy-3,5-dimethylphenylamino)cyclobutyl)acetate | 1 g | COC1=C(C=C(C=C1C)NC1(CCC1)CC(=O)OCC)C | C17H25NO3
reactant | NaOH | 2.5 g | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 2-(1-(4-methoxy-3,5-dimethylphenylamino)-cyclobutyl)acetic acid | 650 mg | COC1=C(C=C(C=C1C)NC1(CCC1)CC(=O)O)C | C15H21NO3
